US08470859B2
1-(3-chlorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-aminonicotinamide (0.1 g) in N,N-dimethylformamide (3 ml) was added 1-(bromomethyl)-3-chlorobenzene (0.3 g), and the mixture was stirred at 80° C. for 15 hr. The precipitated crystals were collected by filtration and washed with ethyl acetate to give the title compound (90 mg).

reactant | 2-aminonicotinamide | 0.1 g | NC1=C(C(=O)N)C=CC=N1 | C6H7N3O
reactant | 1-(bromomethyl)-3-chlorobenzene | 0.3 g | BrCC1=CC(=CC=C1)Cl | C7H6BrCl
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(3-chlorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | 90 mg | Br.ClC=1C=C(CN2C(C(=CC=C2)C(=O)N)=N)C=CC1 | InChI=1S/C13H12ClN3O.BrH/c14-10-4-1-3-9(7-10)8-17-6-2-5-11(12(17)15)13(16)18;/h1-7,15H,8H2,(H2,16,18);1H
